US08604213B2
Bis(p-methoxyphenyl)iodonium fluoride:
To a mixture of 454 mg (1 mmol) Bis(p-methoxyphenyl)iodonium trifluoroacetate and 262 mg (1 mmol) anhydrous TBAF was added 1 mL of dry tetrahydrofuran (THF). The solution was allowed to stand for 1 hour, the white precipitate was collected and washed with 3×0.5 mL THF.

reactant | Bis(p-methoxyphenyl)iodonium trifluoroacetate | 1 mmol, 454 mg | FC(C(=O)[O-])(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | TBAF | 1 mmol, 262 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Bis(p-methoxyphenyl)iodonium fluoride | [F-].COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC | InChI=1S/C14H14IO2.FH/c1-16-13-7-3-11(4-8-13)15-12-5-9-14(17-2)10-6-12;/h3-10H,1-2H3;1H/q+1;/p-1
